### PR TITLE
Polytope face lattice is graded

### PR DESCRIPTION
**Pull request by ooovi**
use homogenization to show the face lattice of a polytope is graded (by homogenization cone face rank, the proper grading will follow)

depends on #47

### CODE REVIEW

File: Polyhedral/Mathlib/Geometry/Convex/Cone/Pointed/Basic.lean [hunk 1]
```diff
@@ -231,20 +234,33 @@ lemma submodule_span_of_hull {s : Set M} {S : Submodule R M} (hsS : hull R s = S
 lemma hull_union (s t : Set M) : hull R (s ∪ t) = hull R s ⊔ hull R t :=
     Submodule.span_union s t
 
+lemma hull_min {s : Set M} {C : PointedCone R M} (hsC : s ⊆ C) : hull R s ≤ C := sInf_le hsC
```
Comment (martinwintermath) [inline Polyhedral/Mathlib/Geometry/Convex/Cone/Pointed/Basic.lean:232]: Do we really need this as a separate lemma?

File: Polyhedral/Mathlib/Geometry/Convex/Cone/Pointed/Basic.lean [hunk 2]
```diff
@@ -50,10 +54,9 @@ open Pointwise in
 
 end LinearMap
 
-namespace PointedCone
+end Semiring
 
-open Module Function
-open Submodule (span)
```
Comment (martinwintermath) [inline Polyhedral/Mathlib/Geometry/Convex/Cone/Pointed/Basic.lean]: Why delete this? I see below that you needed to write `Submodule.span` below everywhere.

File: Polyhedral/Mathlib/Geometry/Convex/Cone/Pointed/Basic.lean [hunk 3]
```diff
@@ -376,6 +392,135 @@ lemma restrict_submodule_inf (S : Submodule R M) (C : PointedCone R M) :
...
+
+variable {R M : Type*} [Field R] [LinearOrder R] [IsStrictOrderedRing R] [AddCommGroup M]
+    [Module R M] {s : Set M}
+
+open Pointwise Set
+
+set_option trace.Meta.synthInstance true
+set_option trace.Meta.synthInstance.answer true
+set_option trace.Meta.synthInstance.newAnswer true
+#check (inferInstance : HAdd (Set M) (Set M) (Set M))
```
Comment (martinwintermath) [inline Polyhedral/Mathlib/Geometry/Convex/Cone/Pointed/Basic.lean]: Remove this for the PR?

File: Polyhedral/Mathlib/Geometry/Convex/Cone/Pointed/Basic.lean [hunk 4]
```diff
@@ -376,6 +392,135 @@ lemma restrict_submodule_inf (S : Submodule R M) (C : PointedCone R M) :
 
 end Semiring
 
+section Convexity
```
Comment (martinwintermath) [inline Polyhedral/Mathlib/Geometry/Convex/Cone/Pointed/Basic.lean]: Can we split off the convexity parts of this file to `Convexity.lean` or if it is more homogenization focused to `Homogenization.lean`?

File: Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Set/Basic.lean [hunk 5]
```diff
@@ -163,5 +171,50 @@ lemma IsConvexSet.of_convexCombPair_mem
   exact hs _ _ _ _ _ _ (hw <| by simp) _ <| ih (by grw [← hw, ← Finset.subset_cons])
     (by simp [← hsw]; grind)
 
+open Pointwise
```
Comment (martinwintermath) [inline Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Set/Basic.lean]: I don't understand what these file changes are about. They just add comments and weird imports.

File: Polyhedral/Mathlib/LinearAlgebra/AffineSpace/AffineMap.lean [hunk 6]
```diff
@@ -0,0 +1,44 @@
...
+-- open AffineMap in
+-- theorem Convexity.IsConvexSet.preimage_isFaceOf {F C : PointedCone k W} (hf : F.IsFaceOf C)
+--     (finj : Function.Injective f) :
+--     ((IsConvexSet.pointedCone F).preimage f finj).IsFaceOf ((IsConvexSet.pointedCone C).preimage finj) where
+--   subset := Set.preimage_mono (fun _ xm ↦ hf.le xm)
+--   left_mem_of_mem_openSegment  := by
+--     rintro x hx y hy z hz ⟨a, b, ha, hb, hab, hzo⟩
+--     refine hf.mem_of_smul_add_mem hx (C.smul_mem hb.le hy) ha ?_
+--     rwa [← convexCombPair_eq_smul_add_smul ha.le hb.le hab,
+--       ←  f.isAffineMap.map_convexCombPair finj, hzo]
```
Comment (martinwintermath) [inline Polyhedral/Mathlib/LinearAlgebra/AffineSpace/AffineMap.lean]: What's with this?

File: Polyhedral/Mathlib/Order/Hom/Basic.lean [hunk 7]
```diff
@@ -0,0 +1,16 @@
+import Mathlib.Order.Hom.Basic
+
+namespace OrderIso
+
+variable {α β : Type*}
+variable [Preorder α] [Preorder β]
+
+@[simp, to_dual self]
+theorem covBy_iff_covBy (e : α ≃o β) {x y : α} : x ⋖ y ↔ e x ⋖ e y := by
```
Comment (martinwintermath) [inline Polyhedral/Mathlib/Order/Hom/Basic.lean]: The iff should be swapped. (also, if this is really missing, it should be a mathlib PR urgently!)

**Comment by martinwintermath** [comment]
This PR tries to do a lot of things at the same time (homogenization, polytopes, other stuff that I dont understand). I think this should be several PRs.

File: Polyhedral/Mathlib/Geometry/Convex/Cone/Pointed/Basic.lean (hunk 1 above)
Comment (ooovi) [reply Polyhedral/Mathlib/Geometry/Convex/Cone/Pointed/Basic.lean:232]: i stole it from [CnovexCone](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Geometry/Convex/Cone/Basic.html#ConvexCone.hull_min) because it was useful in the proof of `mem_hull_iff_of_convex` which i also stole form ConvexCone

File: Polyhedral/Mathlib/Geometry/Convex/Cone/Pointed/Basic.lean (hunk 2 above)
Comment (ooovi) [reply Polyhedral/Mathlib/Geometry/Convex/Cone/Pointed/Basic.lean]: i had namespacing issues in this file so i moved this down a few lines. i don't think i wrote Submodule.span anywhere?

File: Polyhedral/Mathlib/Geometry/Convex/Cone/Pointed/Convexity.lean [hunk 8]
```diff
@@ -0,0 +1,100 @@
...
+
+lemma isConvexSet (P : PointedCone R M) :
+    IsConvexSet R (P : Set M) := by
+  intro w hw
+  rw [sConvexComb_eq_sum w]
+  refine P.finsuppSum_mem _ _ (fun i r ↦ r • i) (fun c hc ↦ ?_)
+  exact P.smul_mem (w.weights_nonneg c) <| hw (Finsupp.mem_support_iff.mpr hc)
+
+open PointedCone in
+theorem hull_convexHull_eq_hull (t : Set M) :
```
Comment (martinwintermath) [inline Polyhedral/Mathlib/Geometry/Convex/Cone/Pointed/Convexity.lean:33]: Should be a simp lemma in the other direction. The name is already correct.
